US05466701
n-Butyllithium (2.5M, 100 mL) was added with stirring under nitrogen at 0°-5° C. during ten minutes to a solution of 2-isopropylbromobenzene in anhydrous ether (500 mL). The mixture was allowed to warm to room temperature, stirred at room temperature for six hours, and cooled to -60° C. A solution of diethylcarbamyl chloride (34 g) in anhydrous ether (50 mL) was added during 20 minutes while maintaining the temperature below -50° C. The temperature was allowed to rise to room temperature during one hour. Water (100 mL) was added. The ether layer was washed with saturated aqueous sodium chloride (200 mL), dried over magnesium sulfate and stripped of ether. Distillation of the residue (80°-90° C./0.1 mm Hg) gave 2-isopropyl-N,N-diethylbenzamide (44 g, 80% yield).

reactant | n-Butyllithium | 2.5M, 100 mL | C(CCC)[Li]
reactant | 2-isopropylbromobenzene | C(C)(C)C1=C(C=CC=C1)Br | C9H11Br
reactant | diethylcarbamyl chloride | 34 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | Water | 100 mL | O | H2O
solvent | ether | 500 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 2-isopropyl-N,N-diethylbenzamide | 44 g, 80% yield | C(C)(C)C1=C(C(=O)N(CC)CC)C=CC=C1 | C14H21NO
